US04537886
(a) 1-Benzyl-4-ethoxycarbonyl-3-pyrazolin-5-one
Benzyl hydrazine (324 mg, 2.65 mmol) in water (15 ml) containing potassium carbonate (368 mg, 2.65 mmol) was treated with diethyl ethoxymethylene malonate (575 μl, 2.65 mmol) and the whole refluxed for 3 hours. The reaction mixture was allowed to cool and then washed with ethyl acetate. The aqueous solution was then acidified (HCl) to pH 2 and extracted with ethyl acetate. The ethyl acetate extraction was dried (MgSO4) and evaporated to give the title product as an oily solid which solidified on hexane trituration 265 mg, 41%), recrystallised from aqueous ethanol, mp 79°-81° C. νmax (CHCl3) 1720, 1659, 1575 cm-1. δ(CDCl3) 1.37 (3H, t, J8 Hz, --OCH2CH3), 4.4 (2H, q, J8 Hz, OCH2CH3), 5.23 (2H, s, --CH2N), 7.44 (5H, m, phenyl protons), 7.73 (1H, s, C3 pyrazole proton), 8.50 (1H, bs, --NH proton). Found: M+, 246.0995; C13H14N2O3 requires M, 246.1003.

reactant | Benzyl hydrazine | 2.65 mmol, 324 mg | C(C1=CC=CC=C1)NN | C7H10N2
reactant | potassium carbonate | 2.65 mmol, 368 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ethoxymethylene malonate | 2.65 mmol, 575 μl | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 15 ml | O | H2O
product | 1-Benzyl-4-ethoxycarbonyl-3-pyrazolin-5-one | C(C1=CC=CC=C1)N1NC=C(C1=O)C(=O)OCC | C13H14N2O3
